US07176199B2
Preparation of 1-(3-nitrophenyl)piperidine-4-carboxylic acid ethyl ester:
To a solution of 4-piperidinecarboxylic acid ethyl ester (25.0 g) and 3-nitrophenylboronic acid (31.9 g) in dichloromethane (1.0 L) are added pyridine (64.8 ml), anhydrous copper (II) acetate (28.9 g) and Molecular Sieves 4 Å (500 g), and the mixture was stirred at 25° C. for 3 days. The reaction solution is poured into 10% aqueous citric acid solution, and the mixture was extracted with ethyl acetate. The organic layer was successively washed with aqueous sodium hydrogen carbonate solution and saturated brine, and the solvent is evaporated under reduced pressure to give the title compound.

reactant | 4-piperidinecarboxylic acid ethyl ester | 25.0 g | C(C)OC(=O)C1CCNCC1 | C8H15NO2
reactant | 3-nitrophenylboronic acid | 31.9 g | [N+](=O)([O-])C=1C=C(C=CC1)B(O)O | C6H6BNO4
reactant | pyridine | 64.8 ml | N1=CC=CC=C1 | C5H5N
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | dichloromethane | 1.0 L | ClCCl | CH2Cl2
catalyst | copper (II) acetate | 28.9 g | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
product | 1-(3-nitrophenyl)piperidine-4-carboxylic acid ethyl ester | C(C)OC(=O)C1CCN(CC1)C1=CC(=CC=C1)[N+](=O)[O-] | C14H18N2O4
